US04182881
A. N-[Dichlorophosphinyl]-2-methylbenzamide
A mixture containing 48 g (0.36 mole) of 2-methylbenzamide, 74 g (0.36 mole) of phosphorus pentachloride and 500 ml of AR carbon tetrachloride was heated at 60°-70° for 30 min. at which time the HCl gas evolution had ceased. The solution was cooled to 30° and 16.9 g (0.36 mole) of 97% formic acid added dropwise. Stirring was continued following the addition for 40-50 min. The product was colleted, washed with AR carbon tetrachloride and air-dried to give 56 g, m.p. 91°-93°.

reactant | 2-methylbenzamide | 0.36 mole, 48 g | CC1=C(C(=O)N)C=CC=C1 | C8H9NO
reactant | phosphorus pentachloride | 0.36 mole, 74 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.36 mole, 16.9 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-2-methylbenzamide | ClP(=O)(NC(C1=C(C=CC=C1)C)=O)Cl | C8H8Cl2NO2P
